US08809371B2
1-(2-aminoethyl)pyrrolidine (237 μl) was added to a methanol (1 ml) suspension containing 2-chloro-5-nitropyridine (100 mg), followed by stirring at room temperature for 3 hours and 30 minutes. 1-(2-aminoethyl)pyrrolidine (158 μl) was added, followed by stirring for 2 hours. Water and ethyl acetate were added to the reaction mixture. The organic layer was collected, washed with 10% saline and then with saturated saline, and dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduced pressure. Diisopropylether was added to the obtained residue, solid matter was collected by filtration and washed with diisopropylether and hexane, and a yellow solid of 5-nitro-N-(2-(pyrrolidin-1-yl)ethyl)pyridin-2-amine (27 mg) was thus obtained.

reactant | 1-(2-aminoethyl)pyrrolidine | 237 μl | NCCN1CCCC1 | C6H14N2
reactant | methanol | 1 ml | CO | CH4O
reactant | 2-chloro-5-nitropyridine | 100 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 1-(2-aminoethyl)pyrrolidine | 158 μl | NCCN1CCCC1 | C6H14N2
reactant | Water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-nitro-N-(2-(pyrrolidin-1-yl)ethyl)pyridin-2-amine | 27 mg | [N+](=O)([O-])C=1C=CC(=NC1)NCCN1CCCC1 | C11H16N4O2
